US08530493B2
6. (3aSR,10RS)-2-(2-Dimethylamino-ethyl)-10-(3-hydroxy-phenyl)-6-(2-methoxy-ethoxy)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
To a suspension of 100 mg (240 μmol) (1RS,3SR)-1-(3-hydroxy-phenyl)-6-(2-methoxy-ethoxy)-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline-3-carboxylic acid methyl ester in 4 ml dichloromethane are added 126 μl (970 μmol, 4.00 eq.) triethylamine. The solution is cooled to 0° C. and a solution of 123 mg (610 μmol, 2.5 eq.) 4-nitrophenyl chloroformiate in 1 ml dichloromethane is added dropwise. The mixture is stirred for 10 min at 0° C. and for additional 30 min at room temperature. The solution is cooled again to 0° C. and 72.0 μl (660 μmol, 2.7 eq) 2-dimethylaminoethyl amine in 1 ml dichloromethane are added slowly. The mixture is allowed to warm up to room temperature over night. Water and a saturated aqueous solution of sodium carbonate are added and the aqueous layer is extracted with dichloromethane. The combined organic layers are dried with magnesium sulphate and the solvent is removed under reduced pressure (210 mg crude intermediate).

reactant | (1RS,3SR)-1-(3-hydroxy-phenyl)-6-(2-methoxy-ethoxy)-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline-3-carboxylic acid methyl ester | 240 μmol, 100 mg | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OCCOC)C1=CC(=CC=C1)O)C | C23H26N2O5
reactant | triethylamine | 970 μmol, 126 μl, 4.00 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-dimethylaminoethyl amine | 660 μmol, 72.0 μl, 2.7 eq | CN(CCN)C | C4H12N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (3aSR,10RS)-2-(2-Dimethylamino-ethyl)-10-(3-hydroxy-phenyl)-6-(2-methoxy-ethoxy)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | CN(CCN1C(C2(N(C(C=3NC4=CC=C(C=C4C3C2)OCCOC)C2=CC(=CC=C2)O)C1=O)C)=O)C | C27H32N4O5
